US04810806
A suspension of 5.4 g (0.10 mol) of sodium methoxide in 50 mL of tetrahydrofuran (THF) was stirred at -20° to -10° while 17.7 g (0.10 mol) of 2-chloroethyl trifluoroacetate were added dropwise. The resulting clear solution was allowed to warm with precipitation commencing at about 10° and a slow exotherm ensuing to 35°. The mixture was maintain below 35° until the exotherm subsided and then was stirred for 4 h. Filtration and fractionation of the filtrate gave 7.4 g (43% yield) of 2-methoxy-2-trifluoromethyl-1,3-dioxolane, b.p. 61°-62° at 3.3 kPa (25 mm). IR (neat): 3000, 2965, 2925, and 2680 (sat'd CH), 1250-1100 cm-1 (CF, C--O). NMR (CCl4): 1H 4.17 (m, 4H, ring CH2 and 3.33 ppm (s, 3H, OCH3); 19F-85.0 ppm (s, CF3).

reactant | sodium methoxide | 0.10 mol, 5.4 g | C[O-].[Na+]
reactant | 2-chloroethyl trifluoroacetate | 0.10 mol, 17.7 g | FC(C(=O)OCCCl)(F)F | C4H4ClF3O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-methoxy-2-trifluoromethyl-1,3-dioxolane | 7.4 g, 43% yield | COC1(OCCO1)C(F)(F)F | C5H7F3O3
